US05849930
To a solution of 4- geranyloxybenzoic acid (19.2 g) in tetrahydrofuran anhydride (200 ml) was added 1,1'-carbonyldiimidazole (11.4 g). After being stirred for 2 hours at room temperature, the reaction solution, with water added thereto, was extracted with ethyl acetate. The extract was dried over sodium sulfate anhyride and then the solvent was evaporated under a vacuum. The residue was recrystallized from n-hexane, thereby yielding 16.7 g (79%) of 4-geranyloxybenzoylimidazole.

reactant | 4- geranyloxybenzoic acid | 19.2 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)O)C=C1 | C17H22O3
reactant | 1,1'-carbonyldiimidazole | 11.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | water | O | H2O
product | 4-geranyloxybenzoylimidazole | 16.7 g, 79% | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)C=2NC=CN2)C=C1 | C20H24N2O2
